US07851473B2
(2) N-(1-Methyl-1H-pyrazol-5-yl]-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A solution of bis(2,2,2-trichloroethyl) (1-methyl-1H-pyrazol-5-yl)imidodicarbonate (200 mg, 0.447 mmol), 1-(4-phenyl-1,3-thiazol-2-yl)piperazine (180 mg, 0.734 mmol), diisopropylethylamine (0.129 ml, 0.734 mmol) and dimethylsulfoxide (2 ml) was stirred at 70° C. for 12 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of ethyl acetate and hexane to obtain the desired product (54.8 mg, 33.2%) as a solid.

reactant | bis(2,2,2-trichloroethyl) (1-methyl-1H-pyrazol-5-yl)imidodicarbonate | 0.447 mmol, 200 mg | CN1N=CC=C1N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C10H9Cl6N3O4
reactant | 1-(4-phenyl-1,3-thiazol-2-yl)piperazine | 0.734 mmol, 180 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | diisopropylethylamine | 0.734 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(1-Methyl-1H-pyrazol-5-yl]-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 54.8 mg, 33.2% | CN1N=CC=C1NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=CC=CC=C1 | C18H20N6OS
